US05608069
A mixture of 3-methylbutanoic acid (20.4 g, 0.2 mol), thionyl chloride (35.7 g, 0.3 mol) and DMF (0.5 ml) was heated at reflux for 2 h. The mixture was carefully concentrated in vacuo to give the crude acid chloride. A suspension of anhydrous aluminium chloride (15.4 g, 115 mmol) in dichloromethane (100 ml) was cooled to 0° C. and a solution of the above acid chloride in dichloromethane (50 ml) was added dropwise. The mixture was stirred for 15 min and a solution of benzene (17.9 g, 0.23 mol) in dichloromethane (50 ml) was added dropwise and the resulting mixture stirred at room temperature for 16 h. The reaction mixture was poured into cold 0.05N hydrochloric acid (300 ml) and the resulting mixture extracted with dichloromethane (3×100 ml). The combined organic phases were washed with 1 hydrochloric acid (300 ml), water (300 ml) and saturated sodium hydrogen-carbonate solution (300 ml) and dried (MgSO4). The solvent was evaporated in vacuo to give 21.6 g of 3-methylbutyrophenone.

reactant | 3-methylbutanoic acid | 0.2 mol, 20.4 g | CC(CC(=O)O)C | C5H10O2
reactant | thionyl chloride | 0.3 mol, 35.7 g | S(=O)(Cl)Cl | Cl2OS
reactant | aluminium chloride | 115 mmol, 15.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzene | 0.23 mol, 17.9 g | C1=CC=CC=C1 | C6H6
reactant | hydrochloric acid | 0.05N, 300 ml | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 3-methylbutyrophenone | 21.6 g | CC(CC(=O)C1=CC=CC=C1)C | C11H14O
